US03940402
1-Bromohexane, 3.3 g (0.02 mole), was added to a stirred solution of 6.2 g (0.03 mole) of tris(dimethylamino)sulfonium cyanate in 12 ml of acetonitrile at 25°. The course of the reaction was followed by glc analysis. One-half of the 1-bromohexane had reacted after 6 min., and the reaction was virtually complete after 2 hours. Ether, 20 ml, was added to the reaction mixture to precipitate dissolved salts, and the reaction mixture was filtered. Distillation of the filtrate gave 2.16 g (85%) of 1-hexyl isocyanate as a colorless liquid, b.p. 50°-51° (10 mm).

reactant | 1-Bromohexane | BrCCCCCC | C6H13Br
reactant | tris(dimethylamino)sulfonium cyanate | 0.03 mole, 6.2 g | [O-]C#N.CN(C)[S+](N(C)C)N(C)C
reactant | Ether | CCOCC | C4H10O
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | 1-hexyl isocyanate | 2.16 g, 85% | C(CCCCC)N=C=O | C7H13NO
